US07662825B2
2,3-Dichloro-N-{6-chloro-3-methoxy-5-([2-methoxyethyl)amino]-2-pyrazinyl}benzenesulphonamide
Prepared by the method of Example 67 using 2-methoxyethylamine (3 mL) and 2,3-dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulphonamide (0.24 g). Yield 0.08 g.

reactant | 2-methoxyethylamine | 3 mL | COCCN | C3H9NO
reactant | 2,3-dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulphonamide | 0.24 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC(=C(N=C1OC)Cl)Cl | C17H21Cl4N3O4SSi
product | 2,3-Dichloro-N-{6-chloro-3-methoxy-5-([2-methoxyethyl)amino]-2-pyrazinyl}benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC(=C(N=C1OC)NCCOC)Cl | C14H15Cl3N4O4S
